US03948971
A suspension of 0.59 g. (2.1 mM) of phenylalanine methylester hydrochloride in 10 ml. of chloroform is cooled to 0°C. After the pH of the mixture is adjusted to 8 by addition of triethylamine, 4.5 mM of 1-methylcyclohexyl chloroformate is added portion-wise at 0°C. while maintaining the pH of the reaction at 8 by addition of triethylamine. The reaction is stirred overnight at 20°-25°C. After adding chloroform, the reaction mixture is washed with 5% sodium bicarbonate solution, 50% saturated sodium chloride solution, 0.2 N sulfuric acid saturated with sodium sulfate, twice with 50% saturated sodium chloride solution, and then the reaction solution is dried over sodium sulfate. The solvent is removed to afford an oil of 1-methylcyclohexyloxycarbonyl phenylalanine methyl ester.

reactant | phenylalanine methylester hydrochloride | 2.1 mM | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1-methylcyclohexyl chloroformate | 4.5 mM | ClC(=O)OC1(CCCCC1)C | C8H13ClO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-methylcyclohexyloxycarbonyl phenylalanine methyl ester | COC([C@@H](NC(=O)OC1CCCCC1)CC1(CC=CC=C1)C)=O | C18H27NO4
